US09371321B2
Step B: tert-Butyl (4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)cyclohex-3-en-1-yl)carbamate
A microwave vial was charged with (S)-2-amino-4-((1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile (0.07 g, 0.181 mmol), tert-butyl (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)carbamate (0.076 g, 0.236 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.015 g, 0.018 mmol) and sodium bicarbonate (0.030 g, 0.362 mmol) in dioxane (2 mL) and water (0.500 mL). The reaction mixture was heated to 100° C. for 40 minutes in a microwave reactor. Following reaction, the solvent was removed under a nitrogen stream and the residue was partitioned between ethyl acetate (20 mL) and water (20 mL). The organic phase was dried over anhydrous sodium sulfate and purified on a silica gel column (20-80% ethyl acetate/heptanes gradient) to give the title compound as a tan solid (79 mg, 87%). ESI-MS m/z [M+H]+ calc'd for C27H34N8O2, 503. found 503.

reactant | (S)-2-amino-4-((1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile | 0.181 mmol, 0.07 g | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)Br)C#N)C | C16H16BrN7
reactant | tert-butyl (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)carbamate | 0.236 mmol, 0.076 g | CC1(OB(OC1(C)C)C1=CCC(CC1)NC(OC(C)(C)C)=O)C | C17H30BNO4
reactant | sodium bicarbonate | 0.362 mmol, 0.030 g | C([O-])(O)=O.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.500 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.018 mmol, 0.015 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-Butyl (4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)cyclohex-3-en-1-yl)carbamate | 79 mg, 87% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CCC(CC2)NC(OC(C)(C)C)=O)C#N)C | C27H34N8O2
